US07705028B2
8b) Methyl 7-(4-hydroxyphenyl)-2-naphthalenecarboxylate
A solution of methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-2-naphthalenecarboxylate (100 mg, 0.3 mmol), tetrakistriphenylphosphine palladium (14 mg, 0.012 mmol) and 4-(4,4,5,5-tetramethyl 1,3,2-dioxaborolan-2-yl-) phenol (79 mg, 0.36 mmol) in a mixture of dimethoxyethane (1.6 mL) and 2 M aqueous Na2CO3 (1.3 mL) was heated in a 70° C. oil bath for one hour. The solution was partitioned between ethyl acetate and water. The organic layer was dried with magnesium sulfate, filtered, and concentrated. The crude material was purified by chromatography on silica gel, (hexane to 3:7 ethyl acetate:hexanes) to provide the title compound (0.085 g, 95.5% as 0.20 ethyl acetate). 1H NMR (DMSO-d6): δ 9.64 (s, 1H), 8.65 (s, 1H), 8.31 (s, 1H), 8.03-7.99 (m, 2H), 7.93-7.90 (m, 2H), 7.66 (d, J=9 Hz, 2H), 6.88 (d, J=9 Hz, 2H), 3.90 (s, 3H).

reactant | methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-2-naphthalenecarboxylate | 0.3 mmol, 100 mg | FC(S(=O)(=O)OC1=CC=C2C=CC(=CC2=C1)C(=O)OC)(F)F | C13H9F3O5S
reactant | 4-(4,4,5,5-tetramethyl 1,3,2-dioxaborolan-2-yl-) phenol | 0.36 mmol, 79 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
solvent | dimethoxyethane | 1.6 mL | C(OC)COC | C4H10O2
solvent | Na2CO3 | 2 M, 1.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | Methyl 7-(4-hydroxyphenyl)-2-naphthalenecarboxylate | 0.085 g, 95.5% | OC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)OC | C18H14O3
